US05446057
To a cooled (-78° C.) solution of 3-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)pyridine [Hauck A. E., et al., J. Chem. Soc. Perkin I 1980:2070-2076] (140.0 g, 0.79 mol) in 500 mL dry tetrahydrofuran (THF), phenyllithium (1.42 mol, 1.8 eq) is added under a nitrogen atmosphere until gas chromatography (GC) analysis indicates no more starting material is present. The reaction mixture is stirred for 10 minutes and then quenched with 500 mL water at -78° C. After warming the reaction mixture to room temperature with a water bath, 700 mLof diethyl ether is added to the mixture. The resulting solid is filtered, rinsed once with chilled methanol, and then dried at 40° C. in a vacuum oven overnight to yield 166.6 g (0.65 mol) of 1,4-dihydro-3-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)-4-phenylpyridine.

reactant | 3-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)pyridine | 0.79 mol, 140.0 g | CC1(N=C(OC1)C=1C=NC=CC1)C | C10H12N2O
reactant | phenyllithium | 1.42 mol, 1.8 eq | C1(=CC=CC=C1)[Li]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 1,4-dihydro-3-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)-4-phenylpyridine | 0.65 mol, 166.6 g | CC1(N=C(OC1)C1=CNC=CC1C1=CC=CC=C1)C | C16H18N2O
